* generated DPT SIC750_10R V=467.50000000000006 I=78 Rgon=4.7 Rgoff=6.8 Lloop=1e-8
.include ../models/sic-behavioral.lib
VBUS bus 0 DC 467.50000000000006
CDC bus 0 100u ic=467.50000000000006
LLP bus kd 1e-8
DFW sw kd JBS1200_40
RSN sw nsn 10
CSN nsn 0 470p
LLD kd sw 0.000042 ic=0
VSNS sw d1 0
LD d1 d 8n
M1 d g ks SIC750_10R
LKS ks s 1.5n
LSP s 0 6n
VDRV drv ks PWL(0 -4 1e-7 -4 1.05e-7 18 0.0000071074866310160416 18 0.0000071124866310160415 -4 0.000008607486631016042 -4 0.000008612486631016043 18 0.000009407486631016042 18 0.000009412486631016042 -4)
RGN drv gon 4.7
DGN gon g DIDEAL
DGF g goff DIDEAL
RGF goff drv 6.8
.model DIDEAL D(Is=1e-3 N=0.1)
.tran 0.25n 0.000010007486631016041 uic
.option method=gear reltol=1e-3 abstol=1u vntol=1m
.control
set filetype=ascii
run
wrdata dpt-pfc750-tuned-vhi.out v(d,ks) v(g,ks) i(VSNS) v(sw)
quit
.endc
.end